***** Transient Test for Three Terminal Attenuator 

.tran2 tstop=2e-6 tstep=10e-9 im=0 out_steps=200

***** Circuit Network
vsource:v1 1 0 vac=4 f=1e6 

resistor:rin 1 2 r=50

***connections 	n1=input n2=output n3=gnd   
attenuatorgen:a1 2 0 3 0 zo=50 alpha=4

resistor:rout 3	0 r=50

***** Time Domain
.options gnuplot 
.out plot term 2 vt in "Att3_InputAtTerminal2.out"
.out plot term 3 vt in "Att3_Output.out"

.end


