* AC Analysis
.ac start = 1e6 stop = 1GHz n_freqs=100

vsource:v2 4 0 vac= 5
resistor:rs2 4 5 r=50
chebyshevLPF:f2 5 0 6 n=21 f0=300e6 z0=50 type=1 ripple=1
resistor:rl2 6 0 r=50


.options gnuplot
.options plotVF1Preamble="set logscale x; set xlabel 'FREQUENCY (Hz)'; set ylabel 'Magnitude (dB)"
.out plot term 6 vf term 4 vf 2 div div mag db plotVF1Preamble in "out.ac1.value"

.end

