* Transient chebyshevfilter test
.options verbose

.tran2 tstop=80ns tstep=0.1ns out_steps=1

vsource:1 1 0 vac=1 f=300e6 phase=90
R:Rin 1 2 r=10
chebyshevLPF:f1 2 0 3 n=11 f0=300e6 z0=10 type=0 ripple=0.1
R:Ro 3 0 r=10
.options gnuplot
.options plotVT1Preamble="set xlabel 'Time (s)'; set ylabel 'Magnitude (V)"
.out plot term 3 vt plotVT1Preamble in "out.tran.value"

.end
