* AC Analysis
.ac start = 1e6 stop = 1GHz n_freqs=100
vsource:v1 1 0 vac= 5
resistor:rs1 1 2 r=50
chebyshevLPF:f1 2 0 3 n=21 f0=300e6 z0=50 type=0 ripple=1
resistor:rl1 3 0 r=50

.options gnuplot
.options plotVF1Preamble="set logscale x; set xlabel 'FREQUENCY (Hz)'; set ylabel 'Magnitude (dB)"
.out plot term 3 vf term 1 vf 2 div div mag db plotVF1Preamble in "out.ac1.value"

.end

