* CMOS Nand DC Analysis

**This netlist is for  DC Analysis of 2 input Cmos Nand Gate **
.dc sweep="vsource:Vin1" start=0 stop=5 step=0.01
*** DC Sweep First input
vsource:Vin1 22 0
*** Tie Second input to Vdd
vsource:Vin2 33 0 vdc=5
*** Vdd connection
vsource:Vdd 1 0 vdc=5

***Nand Instantiation
cmos2nand:nand 1 2 3 4 0

**  Source Resistance and Capacitance
r:in2 22 2 r=10
r:in3 33 3 r=10
c:in2 2 0 c=1e-12
c:in3 3 0 c=1e-12

****Out Resistance and Capacitance
r:R 4 0 r=1000000
c:C 4 0 c=1e-12

.options gnuplot
.out plot term 4 vt in "vout.out"
.out plot term 22 vt in "vin1.out"
.out plot term 33 vt in "vin2.out"
.end
