* Thermal CMOS Nand DC Analysis

**This netlist is for  DC Analysis of 2 input Thermal Cmos Nand Gate Model **

.options initTmp=300
.ref "tref"
.ref 0

*** DC Sweep First input
.dc sweep="vsource:Vin1" start=0 stop=5 step=0.01
vsource:Vin1 22 0
*** Tie Second input to Vdd
vsource:Vin2 33 0 vdc=5
*** Vdd connection
vsource:Vdd 1 0 vdc=5

***Thermal Nand Instantiation
cmos2nandt:nand 1 2 3 4 0 2000 "tref" tmp=initTmp

**  Source Resistance and Capacitance
r:in2 22 2 r=10
r:in3 33 3 r=10
c:in2 2 0 c=1e-12
c:in3 3 0 c=1e-12

****Out Resistance and Capacitance
r:R 4 0 r=1000000
c:C 4 0 c=1e-12

**** Thermal
r:Rthermal 2000 2001 r=20e3
c:Cthermal 2000 2001 c=1e-12
vsource:vt1 2001 "tref" vdc=initTmp

.options gnuplot
.out plot term 4 vt in "Vout_300K_20k.out"
.out plot term 2000 vt in "JunctionTemp_300K_20k.out"
.out plot element "vsource:vt1" 0 it in "Iheat_300K_20k.out"

*.out plot term 22 vt in "vin1.out"
*.out plot term 33 vt in "vin2.out"
.end
