* CMOS Inverter Transient Analysis

*** This netlist is for Transient Analysis of Cmos Inverter. This Inverter is based on EKV MOSFET model

.tran2 tstop=4e-6 tstep=1e-12

** Spice Type Transient Analysis
*.tran tstop=4e-6 tstep=1e-12 gcomp=0 tm=0
*** Input Pulse
vpulse:Vin2 22 0 v1=0 v2=5 per=2e-6 pw=1e-6 tr=0.002e-8 tf=0.002e-8
**** Vdd connection
vsource:Vdd 1 0 vdc=5
*** Instatantiation of Inverter
cmosinv:inv 1 2 3 0

* Load Resistance
r:Rout 3 0 r=1000000
* Load Capacitance
c:Cout 3 0 c=1e-12
* Source Resistance
r:Rsource 22 2 r=10
* Source Capacitance
c:Csource 2 0 c=1e-12

*****Plot
.options gnuplot
.out plot term 3 vt in "vout.out"
.out plot term 22 vt in "vin.out"
.end
