**** Test netlist for  Foster N Port Model *****
*
* Two-port coupled antena test
*

.tran2 tstop=1000ns tstep=5ps im=2

vsource:vin 1 0 vac=1 f=300megaHz phase=90
r:rin 1 port1 r=50

FosterNPort:f1 port1 port2 0 filename = "foster_r1nw.txt" ports = 2

r:rload port2 0 r=50


.options gnuplot

.options preamble="set term x11 font 'helvetica,13'; set title 'Voltage at Input to Foster N Port'; set xlabel 'TIME (microseconds)'; set ylabel 'VOLTAGE (volts)' "
.out plot term "port1" vt 1e6 scalex preamble in "v1.out"

.options preamble="set term x11 font 'helvetica,13'; set title 'Voltage at Receiver Port'; set xlabel 'TIME (microseconds)'; set ylabel 'VOLTAGE (microvolts)' "
.out plot term "port2" vt 1e6 mult  1e6 scalex preamble in "v2.out"

.end



.end
