* lspiral ac analysis
.options verbose
.options zo=50

vsource:vin 1 0 vdc=0 vac=1 
vsource:vprobe 2 0 vdc=0
.options gsub11=9.90e-3 gsub21=2.189e-3 gsub31=1.688e-3
.ac start=100e6 stop=10GHz n_freqs=10000

lspiral:ls1 1 2 0 rdc=2.778 ldc=4.325e-9 rs1=26e3 ls1=1e-6 ms1=13.61e-9
+ cw=10.00e-15 cox1=19.71e-15 csub11=64.67e-15 rsub11={1/gsub11} cox2=73.01e-15
+ csub21=10.82e-15 rsub21={1/gsub21} cox3=15.27e-15 csub31=31.06e-15
+ rsub31={1/gsub31}

* ===================================================================
.options gnuplot
* ===================================================================

.options preamble="set title 'Q11: 9.5-nH Planar spiral inductor'; set zero 1e-15; set grid; set data style lines;set yrange [0:20]; set ylabel 'Q11';set xrange [100e6:10e9]; set xlabel 'Frequency (Hz)'; set key noautotitles; Q(a,b)=(-b/a)"

.options postamble="using 1:(Q($2,$3))" 

* y11 - short output, measure i1/v1
.out plot element "vsource:vin" 0 if -1 mult term "1" vf div postamble preamble in "y11.dat"
